US04749703
Preparation of 5-[4-[4-(4-fluorophenyl)-1-piperazinyl]butyrylamino-5H-dibenzo[a,d]cycloheptene
A mixture of 200 mg of 5H-dibenzo[a,d]cyclohepten-5-ol, 300 mg of 4-[4-(4-fluorophenyl)-1-piperazinyl]butyramide and 8 ml of acetic acid is stirred at 70° C. for 20 hours. The acetic acid is distilled off under reduced pressure and 100 ml of chloroform is added to the residue. The solution is washed successively with 10% aqueous potassium carbonate solution, water and saturated aqueous sodium chloride solution, and dried over magnesium sulfate, and the chrloroform is distilled off. The residue is chromatographed on silica gel with chloroform-methanol (100:3) to give 250 mg of the title compound. m.p. 233°-235° C. (recrystallized from chloroform-n-hexane);

reactant | 5H-dibenzo[a,d]cyclohepten-5-ol | 200 mg | C1=CC=CC=2C(C3=C(C=CC21)C=CC=C3)O | C15H12O
reactant | 4-[4-(4-fluorophenyl)-1-piperazinyl]butyramide | 300 mg | FC1=CC=C(C=C1)N1CCN(CC1)CCCC(=O)N | C14H20FN3O
solvent | acetic acid | 8 ml | C(C)(=O)O | C2H4O2
product | 4-[4-(4-fluorophenyl)-1-piperazinyl]butyrylamino-5H-dibenzo[a,d]cycloheptene | 250 mg | FC1=CC=C(C=C1)N1CCN(CC1)CCCC(=O)NC1=CC=CC=2CC3=C(C=CC21)C=CC=C3 | C29H30FN3O
